US20010003121A1
5-Aziridin-1-yl-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
2-Chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (0.15 g), cesium carbonate (0.192 g) and acetonitrile (3 ml) were combined and heated in a sealed tube at 100° C. for 24 hours. The cooled reaction mixture was poured into water (50 ml) and the product extracted into ethyl acetate, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The crude product was purified by NPHPLC eluting with 0-5% ethanol in dichloromethane to give the title compound as a white solid (0.023 g).

reactant | 2-Chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.15 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)NCCCl | C20H26Cl2N2O
reactant | cesium carbonate | 0.192 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | 5-Aziridin-1-yl-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.023 g | N1(CC1)C=1C=CC(=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C1)Cl | C20H25ClN2O
